US04496567
A mixture of 4-phenylbutylamine (4.0 g), 2-methylthio-5-(3-pyridylmethyl)-4-pyrimidone (5.8 g) and dry pyridine (40 ml) was heated under reflux for 60 hours and evaporated to dryness. Water was added to the residue and the pH was adjusted to 7 with hydrochloric acid. The solid which separated out was recrystallised from aqueous ethanol to give 2-(4-phenylbutylamino)-5-(3-pyridylmethyl)-4-pyrimidone dihydrate m.p. about 70°.

reactant | 4-phenylbutylamine | 4.0 g | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | 2-methylthio-5-(3-pyridylmethyl)-4-pyrimidone | 5.8 g | CSC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C11H11N3OS
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-phenylbutylamino)-5-(3-pyridylmethyl)-4-pyrimidone dihydrate | O.O.C1(=CC=CC=C1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | InChI=1S/C20H22N4O.2H2O/c25-19-18(13-17-10-6-11-21-14-17)15-23-20(24-19)22-12-5-4-9-16-7-2-1-3-8-16;;/h1-3,6-8,10-11,14-15H,4-5,9,12-13H2,(H2,22,23,24,25);2*1H2
